US08735384B2
A vial was charged with 2-amino-5-bromobenzaldehyde (400 mg, 2 mmol), bis(pinacolato)diboron (609 mg, 2.400 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (82 mg, 0.100 mmol) and potassium acetate (0.375 mL, 6.00 mmol). The vial was evacuated and backfilled with nitrogen gas three times. Dioxane (12 mL) was added and the reaction mixture was heated to 85° C. overnight in an oil bath. The reaction mixture was cooled to RT and the solution was filtered through a pad of celite. The material was absorbed onto a plug of silica gel and purified by flash chromatography (10-60% EtOAc/hexanes). 2-Amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzaldehyde was obtained as a yellow solid.

reactant | 2-amino-5-bromobenzaldehyde | 2 mmol, 400 mg | NC1=C(C=O)C=C(C=C1)Br | C7H6BrNO
reactant | bis(pinacolato)diboron | 2.400 mmol, 609 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 6.00 mmol, 0.375 mL | C(C)(=O)[O-].[K+]
product | 2-Amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzaldehyde | NC1=C(C=O)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H18BNO3
